US04855086
5-Phenylpent-4-ynal (0.5 g) in CH2Cl2 (5 ml) was added to a solution of formylmethylenetriphenyl phosphorane (1.8 g) in CH2Cl2 (10 ml) and the mixture was stirred at room temperature under a dry nitrogen atmosphere for 24 hours. The solvent was removed under reduced pressure and the residue was slurried with ether (50 m), filtered, and the residue washed with ether. The ethereal solutions were combined and the product was purified by chromatography on silica eluting with ether:hexane (1:9) to yield 7-phenylhept-2E-en-6-ynal (0.25 g) as a yellow oil.

reactant | 5-Phenylpent-4-ynal | 0.5 g | C1(=CC=CC=C1)C#CCCC=O | C11H10O
reactant | formylmethylenetriphenyl phosphorane | 1.8 g | C(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H17OP
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 7-phenylhept-2E-en-6-ynal | 0.25 g | C1(=CC=CC=C1)C#CCC/C=C/C=O | C13H12O
